US04022779
(c) 4-Amino-6-butylamino-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester
26 g. of 4-amino-6-chloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester (0.1 mol.) in 300 ml. of alcohol and 15 g. of triethylamine are treated with 7.3 g. of butylamine for 30 minutes at reflux temperature. After this time, the solution is evaporated to dryness and 100 ml. of ethyl acetate are added to the residue. The triethylammonium chloride is filtered off, the solvent is evaporated and the remaining oil recrystallized from methanol. The yield of 4-amino-6-butylamino-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester is 25 g. (84%), m.p. 74°-76° (methanol).

reactant | 4-amino-6-chloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | 0.1 mol | C(C)OC(=O)C=1C(=NC(=C(C1N)[N+](=O)[O-])Cl)C | C9H10ClN3O4
reactant | butylamine | C(CCC)N | C4H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Amino-6-butylamino-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=C(C1N)[N+](=O)[O-])NCCCC)C | C13H20N4O4
